US09399637B2
Step 3) 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one
To a solution of ethyl 2-(8-(nitromethyl)-1,4-dioxaspiro[4.5]decan-8-yl)acetate (109 g, 379.38 mmol) in EtOH (600 mL) was added Raney Ni (10 g). The reaction mixture was stirred under H2 atmosphere at rt for 72 h and filtered. The filter cake was washed with a mixture of DCM and MeOH (1/1 (v/v), 500 mL). The filtrated was concentrated in vacuo and the residue was washed with a mixture of PE and EtOAc (10/1 (v/v), 800 mL) and filtered to give the product as a white solid (67 g, 83.8%).

reactant | ethyl 2-(8-(nitromethyl)-1,4-dioxaspiro[4.5]decan-8-yl)acetate | 379.38 mmol, 109 g | [N+](=O)([O-])CC1(CCC2(OCCO2)CC1)CC(=O)OCC | C13H21NO6
reactant | EtOH | 600 mL | CCO | C2H6O
catalyst | Ni | 10 g | [Ni] | Ni
product | 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-9-one | 67 g, 83.8% | O1CCOC12CCC1(C(NCC1)=O)CC2 | C11H17NO3
